US04973426
A solution of (2S)-2-(2'-tetrahydropyranyloxy)-1-(p-toluenesulfonyloxy)-propane (20 g) in N,N-dimethylformamide (hereinafter abbreviated to DMF) (300 ml) was added to a mixture of sodium hydride (60%) (2 g), 4-hydroxy-4'-octyloxy-biphenyl(10 g) and tetrahydrofuran (hereinafter abbreviated to THF) (200 ml), followed by agitating the resulting mixture at 60° C. for 4 hours, allowing it to cool down to room temperature, adding toluene (300 ml) and water (300 ml), separating the resulting organic layer, washing it with an alkali solution and then with water, concentrating it, adding ethanol (300 ml) and pyridium p-toluenesulfonate (hereinafter abbreviated to PPTS) (2 g), agitating the mixture at 50° C. for 3 hours, distilling off ethanol, adding toluene (300 ml), washing the resulting organic layer with water, concentrating it and recrystallizing the concentrate, to obtain (S)-1-(4'-octyloxy-4-biphenylyloxy)-propan-2-ol (8 g).

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | 4-hydroxy-4'-octyloxy-biphenyl | 10 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC | C20H26O2
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | (S)-1-(4'-octyloxy-4-biphenylyloxy)-propan-2-ol | 8 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC[C@H](C)O | C23H32O3
